US08729102B2
B) 4-{([(2S)-2-(acetylamino)propyl]oxy}benzoic acid
1M Aqueous sodium hydroxide solution (23 mL) was added to a solution (7 mL) of methyl 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoate (3.80 g) in methanol, and the mixture was stirred at 60° C. for 40 min. The reaction mixture was neutralized with 6M hydrochloric acid, and extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was washed with diisopropyl ether, and the precipitated solid was collected by filtration to give the title compound (3.33 g).

reactant | sodium hydroxide | 1M, 23 mL | [OH-].[Na+]
reactant | methyl 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoate | 7 mL, 3.80 g | C(C)(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C13H17NO4
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | methanol | CO | CH4O
product | ([(2S)-2-(acetylamino)propyl]oxy}benzoic acid | 3.33 g | C(C)(=O)N[C@H](COC1=C(C(=O)O)C=CC=C1)C | C12H15NO4
